US09212182B2
6-(Benzylthio)-1-(2,3′-difluoro-5-hydroxy-[1,1′-biphenyl]-4-yl)quinolin-2(1H)-one (510 mg, 1.082 mmol) was dissolved in DMF (2163 μl). Then potassium carbonate (149 mg, 1.082 mmol) was added followed by iodoethane (96 μl, 1.190 mmol). After stirring at rt for 1 d, water was added. A gummy solid was collected with an aid of water, and dried. The crude material was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 50% EtOAc in heptane, to provide 6-(benzylthio)-1-(5-ethoxy-2,3′-difluoro-[1,1′-biphenyl]-4-yl)quinolin-2(1 H)-one (534 mg, 99% yield) as white solid. Ink (ESI) [M+H]+=500.0. NMR (400 MHz, DMSO-d6) δ ppm 1.00 (t, J=6.94 Hz, 3 H) 4.01-4.13 (m, 2 H) 4.24 (s, 2 H) 6.60 (d, J=8.80 Hz, 1 H) 6.70 (d, J=9.59 Hz, 1 H) 7.18-7.35 (m, 6 H) 7.38-7.48 (m, 3 H) 7.49-7.63 (m, 3 H) 7.79 (d, J=2.15 Hz, 1 H) 7.96 (d, J=9.59 Hz, 1 H).

reactant | 6-(Benzylthio)-1-(2,3′-difluoro-5-hydroxy-[1,1′-biphenyl]-4-yl)quinolin-2(1H)-one | 1.082 mmol, 510 mg | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=CC(=C(C=C1O)C1=CC(=CC=C1)F)F)=O | C28H19F2NO2S
reactant | potassium carbonate | 1.082 mmol, 149 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 1.190 mmol, 96 μl | ICC | C2H5I
reactant | water | O | H2O
solvent | DMF | 2163 μl | CN(C)C=O | C3H7NO
product | 6-(benzylthio)-1-(5-ethoxy-2,3′-difluoro-[1,1′-biphenyl]-4-yl)quinolin-2(1 H)-one | 534 mg, 99% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=CC(=C(C=C1OCC)C1=CC(=CC=C1)F)F)=O | C30H23F2NO2S
